US07759385B2
3-(1-benzyl-1,2,5,6-tetrahydropyridine-3-yl)-1H-indole
KOH (2.12 g, 37.8 mmole), indole (1.0 g, 8.54 mmole) and 1-benzyl-3-piperidone hydrochloride (4.82 g, 21.34 mmole) were suspended in methanol (20 ml) and heated for 8 hours at 65° C. under argon. Water (40 ml) was added dropwise at RT to the mixture over a period of 40 minutes. The methanol was distilled off and the aqueous phase was extracted with EE (3×20 ml). The organic phase was dried with Na2SO4 and concentrated by evaporation. 3-(1-benzyl-1,2,5,6-tetrahydropyridine-3-yl)-1H-indole was purified by chromatography with cyclohexane/EE (1:1). The product was obtained as a yellow solid in a yield of 860 mg (35%) and an m.p. of 105°-107° C.

reactant | KOH | 37.8 mmole, 2.12 g | [OH-].[K+]
reactant | indole | 8.54 mmole, 1.0 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 1-benzyl-3-piperidone hydrochloride | 21.34 mmole, 4.82 g | Cl.C(C1=CC=CC=C1)N1CC(CCC1)=O
reactant | Water | 40 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | 3-(1-benzyl-1,2,5,6-tetrahydropyridine-3-yl)-1H-indole | C(C1=CC=CC=C1)N1CC(=CCC1)C1=CNC2=CC=CC=C12 | C20H20N2
